US07253318B2
In analogy to the procedure described in Example 3b), the alkylation of (RS)-2-(4-hydroxy-phenoxy)-N-methyl-butyramide with 3-chloro-benzylbromide in 2-butanone using potassium carbonate as the base yielded the (RS)-2-[4-(3-chloro-benzyloxy)-phenoxy]-N-methyl-butyramide as a white solid; MS: m/e=334 (M+H)+.

reactant | (RS)-2-(4-hydroxy-phenoxy)-N-methyl-butyramide | OC1=CC=C(OC(C(=O)NC)CC)C=C1 | C11H15NO3
reactant | 3-chloro-benzylbromide | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | (RS)-2-[4-(3-chloro-benzyloxy)-phenoxy]-N-methyl-butyramide | ClC=1C=C(COC2=CC=C(OC(C(=O)NC)CC)C=C2)C=CC1 | C18H20ClNO3
